### PR TITLE
[Merged by Bors] - feat(Algebra/PreLie/Basic): define pre-lie algebras

### PR DESCRIPTION
**Pull request by ntapiam**
define left/right pre-lie rings/algebras and show their equivalence via `op`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/PreLie/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,116 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Nikolas Tapia
+-/
+import Mathlib.Algebra.Module.Opposite
+import Mathlib.Algebra.Ring.Associator
+import Mathlib.GroupTheory.GroupAction.Ring
+/-!
+# Pre-Lie rings and algebras
+
+In this file we introduce left and righ pre-Lie rings, defined as a `NonUnitalNonAssocRing` where
```
Comment (ocfnash) [inline Mathlib/Algebra/PreLie/Basic.lean]:
```suggestion
In this file we introduce left and right pre-Lie rings, defined as a `NonUnitalNonAssocRing` where
```

File: Mathlib/Algebra/PreLie/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,116 @@
...
+There are left and right versions of the structures, equivalent via `ᵐᵒᵖ`.
+Perhaps one could be favored but there is no real reason to.
+
+## Tags
+pre-lie algebras
+
+-/
+open MulOpposite Ring Module
+
+universe u v
```
Comment (ocfnash) [inline Mathlib/Algebra/PreLie/Basic.lean]: Outside of category theory, it is rare that we need to control universes explicitly and you don't need to to so here so you can just drop this line:
```suggestion
```
Using `Type*` instead of `Type u`, everything will then "just work". (Some older code dates from the days before this was true and so you'll encounter redundant universe control in old code, which perhaps mislead you here.)

File: Mathlib/Algebra/PreLie/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,116 @@
...
+
+## Implementation notes
+There are left and right versions of the structures, equivalent via `ᵐᵒᵖ`.
+Perhaps one could be favored but there is no real reason to.
+
+## Tags
+pre-lie algebras
+
+-/
+open MulOpposite Ring Module
```
Comment (ocfnash) [inline Mathlib/Algebra/PreLie/Basic.lean]: Nitpick:
```suggestion
open MulOpposite
```

File: Mathlib/Algebra/PreLie/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,116 @@
...
+
+universe u v
+
+namespace NonUnitalNonAssocRing
+@[simp]
+lemma associator_op {L : Type v} (x y z : Lᵐᵒᵖ) [NonUnitalNonAssocRing L] :
+    associator x y z = -op (associator (unop z) (unop y) (unop x)) := by
+  simp only [associator_apply, ← unop_mul, ← unop_sub, op_unop, neg_sub]
+end NonUnitalNonAssocRing
```
Comment (ocfnash) [inline Mathlib/Algebra/PreLie/Basic.lean]: I think this lemma belongs in a less specialised file, probably `Mathlib.Algebra.Ring.Associator`.

I note that you'll need to add `import Mathlib.Algebra.Ring.Opposite` to that file for it to accept this lemma. I suggest trying that and we can let our CI tell us how that behaves.

File: Mathlib/Algebra/PreLie/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,116 @@
...
+
+/-- `LeftPreLieRing`s are `NonUnitalNonAssocRing`s such that the `associator` is symmetric in the
+first two variables. -/
+@[ext]
+class LeftPreLieRing (L : Type v) : Type (v + 1) extends NonUnitalNonAssocRing L where
+  assoc_symm' (x y z : L) : associator x y z = associator y x z
+
+/-- `LeftPreLieRing`s are `NonUnitalNonAssocRing`s such that the `associator` is symmetric in the
```
Comment (ocfnash) [inline Mathlib/Algebra/PreLie/Basic.lean]:
```suggestion
/-- `RightPreLieRing`s are `NonUnitalNonAssocRing`s such that the `associator` is symmetric in the
```

File: Mathlib/Algebra/PreLie/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,116 @@
...
+/-- A `RightPreLieAlgebra` is a `RightPreLieRing` with an action of a `CommRing` satisfying
+`r • x * y = r • (x * y)` and ` x * (r • y) = r • (x * y)`. -/
+@[ext]
+class RightPreLieAlgebra (L : Type v) [RightPreLieRing L] : Type (max u v) extends
+  Module R L, IsScalarTower R L L, SMulCommClass R L L
+end algebras
+
+namespace LeftPreLieRing
+variable {R : Type u} [CommRing R]
+variable {L : Type v} [LeftPreLieRing L]
```
Comment (ocfnash) [inline Mathlib/Algebra/PreLie/Basic.lean]:
```suggestion
variable {R L : Type*} [CommRing R] [RightPreLieRing L]
```

**Review by ocfnash — COMMENTED** [review]
Thanks, great to see our non-associative algebra continue to develop.

I've left some inline comments (mostly nitpicks). Two additional points I wish to raise are:
1. How about we just make this `Mathlib.Algebra.PreLie` rather than `Mathlib.Algebra.PreLie.Basic`? (The answer I think depends on how much further theory you envisage being developed for these algebras.)
2. Could you add a reference to the informal literature on these algebra to the module doc string?

File: Mathlib/Algebra/PreLie/Basic.lean (hunk 4 above)
Comment (ntapiam) [reply Mathlib/Algebra/PreLie/Basic.lean]: Agree, I just didn't know where to put it.

**Comment by ntapiam** [comment]
>     1. How about we just make this `Mathlib.Algebra.PreLie` rather than `Mathlib.Algebra.PreLie.Basic`? (The answer I think depends on how much further theory you envisage being developed for these algebras.)

I'm planning to extend it quite a bit more, including a characterization of the associative product in the universal envelope in terms of the nonassociative operation (Oudom–Guin theorem [Def. 3.10 & Thm. 3.14, OG]) and a realization of the free pre-Lie algebra [Cor. 1.10, CL]. Maybe I'll also include symmetric brace algebras (but this probably goes in it's own file/PR).

In this case, what would be the preferred way to organize the files?

I'll include these references in docs.

**Refs**
[CL] F. Chapoton, M. Livernet, *"Pre-Lie algebras and the rooted trees operad,"* International Mathematics Research Notices, Volume 2001, Issue 8, 2001, Pages 395–408, https://doi.org/10.1155/S1073792801000198
[OG] J.-M. Oudom, D. Guin, *"On the Lie enveloping algebra of a pre-Lie algebra,"* Journal of K-Theory. 2008;2(1):147-167. https://doi.org/10.1017/is008001011jkt037

File: Mathlib/Algebra/PreLie/Basic.lean (hunk 2 above)
Comment (ntapiam) [reply Mathlib/Algebra/PreLie/Basic.lean]: Yeah I think I was misled by some of the existing code I looked at to get hints on how to implement some stuff. I'll correct this.

Comment (ntapiam) [reply Mathlib/Algebra/PreLie/Basic.lean]: Question: is `{R : Type*}` the same as just `{R}`? In that case, which one is preferred?

File: Mathlib/Algebra/PreLie/Basic.lean (hunk 6 above)
Comment (ntapiam) [reply Mathlib/Algebra/PreLie/Basic.lean]: Should this be done to every pair of variables or just this one?

File: Mathlib/Algebra/PreLie/Basic.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Algebra/PreLie/Basic.lean]: Good question: `{R : Type*}` and `{R}` are not equivalent, and in fact `{R}` can even mean two different things depending on context. It can either:

1. Introduce a new type with universe as a metavariable (I believe)
2. Modify an already-defined type to be implicit

We use 2 frequently and avoid 1.

Similar remarks apply for `(R : Type*)` and `(R)`.

File: Mathlib/Algebra/PreLie/Basic.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/Algebra/PreLie/Basic.lean]: I see you have now followed this suggestion, great!

Feel free to click the "Resolve conversation" button if you are confident the issue is resolved (as is the case for most / all of my first round of nitpicks).

File: Mathlib/Algebra/PreLie/Basic.lean (hunk 6 above)
Comment (ocfnash) [reply Mathlib/Algebra/PreLie/Basic.lean]: I think what I'd do is to write:
```lean

variable {R L : Type*} [CommRing R]

```
higher up and then just inline the other typeclasses as you need them.

File: Mathlib/Algebra/PreLie/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,107 @@
...
+instance : LeftPreLieRing Lᵐᵒᵖ where
+  assoc_symm' x y z := by
+    simp [assoc_symm]
+end RightPreLieRing
+
+namespace RightPreLieAlgebra
+variable {R L : Type*} [CommRing R] [RightPreLieRing L] [RightPreLieAlgebra R L]
+/-- Every left pre-Lie algebra is a right pre-Lie algebra with the opposite multiplication -/
+instance : LeftPreLieAlgebra R Lᵐᵒᵖ where
+end RightPreLieAlgebra
```
Comment (ocfnash) [inline Mathlib/Algebra/PreLie/Basic.lean]: We prefer to add lots of whitespace (here and throughout):
```suggestion
namespace RightPreLieAlgebra

variable {R L : Type*} [CommRing R] [RightPreLieRing L] [RightPreLieAlgebra R L]

/-- Every left pre-Lie algebra is a right pre-Lie algebra with the opposite multiplication -/
instance : LeftPreLieAlgebra R Lᵐᵒᵖ where

end RightPreLieAlgebra
```

File: Mathlib/Algebra/PreLie/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,107 @@
...
+  assoc_symm' (x y z : L) : associator x y z = associator y x z
+
+/-- `RightPreLieRing`s are `NonUnitalNonAssocRing`s such that the `associator` is symmetric in the
+last two variables. -/
+@[ext]
+class RightPreLieRing (L : Type*) : Type _ extends NonUnitalNonAssocRing L where
+  assoc_symm' (x y z : L) : associator x y z = associator x z y
+
+section algebras
+variable (R) [CommRing R]
```
Comment (ocfnash) [inline Mathlib/Algebra/PreLie/Basic.lean]:
```suggestion
variable (R : Type*) [CommRing R]
```

File: docs/references.bib [hunk 9]
```diff
@@ -1,16 +1,4 @@
...
-
-# WARNING: Please only use alphanumeric characters, '-', '_', and ':' for the key of bibliography items!
-# Currently doc-gen does not support characters outside them and will silently errors, causing incomplete reference pages.
-
-# https://www.zbmath.org/ and https://mathscinet.ams.org/mathscinet
-# (or the free tool https://mathscinet.ams.org/mrlookup)
-# are good sources of complete bibtex entries for mathematics
-
-# To link to an entry in `references.bib`, use the following formats:
-#   [Author, *Title* (optional location)][bibkey]
```
Comment (ocfnash) [inline docs/references.bib]: Please restore this text

**Review by ocfnash — COMMENTED** [review]
Thanks, this is almost ready now.

Given that your plans to develop this substantially, I think a new directory is justified. However how about we make it `Mathlib/Algebra/NonAssoc/PreLie/` rather than `Mathlib/Algebra/PreLie/`?

I have in mind that with this material and your other Lie-admissible PR as well as our existing Jordan algebra stub and Lie algebra, we should probably group it all together.

File: docs/references.bib (hunk 9 above)
Comment (ntapiam) [reply docs/references.bib]: Not sure why this got deleted. I think I just ran `bibtool` as it recommends.
Will restore it now, sorry about that.

File: Mathlib/Algebra/PreLie/Basic.lean (hunk 6 above)
Comment (ntapiam) [reply Mathlib/Algebra/PreLie/Basic.lean]: That makes sense, thanks!

Comment (ntapiam) [reply Mathlib/Algebra/PreLie/Basic.lean]: Just to make sure before I make another commit, would something like
```lean
variable [LeftPreLieRing L]
```
at the top of a section/namespace declaration make sense? Or do you prefer that `{L : Type*}` appears explicitly after `variable` each time?

Comment (ocfnash) [reply Mathlib/Algebra/PreLie/Basic.lean]: The idea is to use `variable` to save us repeating ourselves so I wouldn't repeat the `{L : Type*}` each time.

I also wouldn't have a separate `namespace` section in cases where there's only one declaration, so e.g., instead of 
```lean
namespace LeftPreLieAlgebra

variable [LeftPreLieRing L] [LeftPreLieAlgebra R L]

/-- Every left pre-Lie algebra is a right pre-Lie algebra with the opposite multiplication -/
instance : RightPreLieAlgebra R Lᵐᵒᵖ where

end LeftPreLieAlgebra
```
I'd just write:
```lean
/-- Every left pre-Lie algebra is a right pre-Lie algebra with the opposite multiplication -/
instance [LeftPreLieRing L] [LeftPreLieAlgebra R L] : RightPreLieAlgebra R Lᵐᵒᵖ where
```

File: Mathlib/Algebra/NonAssoc/PreLie/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,122 @@
...
+# Pre-Lie rings and algebras
+
+In this file we introduce left and right pre-Lie rings, defined as a `NonUnitalNonAssocRing` where
+the associator `associator x y z := (x * y) * z - x * (y * z)` is left or right symmetric,
+respectively.
+
+We prove that every `Left(Right)PreLieRing L` is a `Right(Left)PreLieRing L` with
+the opposite `mul`. The equivalence is simple given by `op : L ≃* Lᵐᵒᵖ`.
+
+Everything holds for the algebra versions where `L` is also an `R-Module` over a commutative ring
```
Comment (ocfnash) [inline Mathlib/Algebra/NonAssoc/PreLie/Basic.lean]:
```suggestion
Everything holds for the algebra versions where `L` is also an `R`-Module over a commutative ring
```

File: Mathlib/Algebra/NonAssoc/PreLie/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,122 @@
...
+## Main results
+  * Every `LeftPreLieRing` is a `RightPreLieRing` with the opposite multiplication.
+
+## Implementation notes
+There are left and right versions of the structures, equivalent via `ᵐᵒᵖ`.
+Perhaps one could be favored but there is no real reason to.
+
+## Tags
+pre-lie algebras
+
```
Comment (ocfnash) [inline Mathlib/Algebra/NonAssoc/PreLie/Basic.lean]: Some old files still contain these `Tags` but we gave up on them (and are likely to cull them all some day) so I suggest dropping them here.
```suggestion
```

File: Mathlib/Algebra/NonAssoc/PreLie/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,122 @@
...
+[F. Chapoton, M. Livernet, *Pre-Lie algebras and the rooted trees operad*][chapoton_livernet_2001]
+[D. Manchon, *A short survey on pre-Lie algebras*][manchon_2011]
+[J.-M. Oudom, D. Guin, *On the Lie enveloping algebra of a pre-Lie algebra*][oudom_guin_2008]
+<https://ncatlab.org/nlab/show/pre-Lie+algebra>
+-/
+
+/-- `LeftPreLieRing`s are `NonUnitalNonAssocRing`s such that the `associator` is symmetric in the
+first two variables. -/
+@[ext]
+class LeftPreLieRing (L : Type*) : Type _ extends NonUnitalNonAssocRing L where
```
Comment (ocfnash) [inline Mathlib/Algebra/NonAssoc/PreLie/Basic.lean]: Lean doesn't need the help here so let's drop this here and below:
```suggestion
class LeftPreLieRing (L : Type*) extends NonUnitalNonAssocRing L where
```

**Review by ocfnash — APPROVED** [review]
Thanks!

Please apply the remaining suggestions and then feel free to merge.

bors d+
